US05216020
Step C: Preparation of 2-aminomethyl-2,3-dihydro-2-n-propylthieno[2,3-b]thiophene-1,1-dioxide
The title compound was prepared substantially the same as 2-aminomethyl-2,3-dihydro-2-methylthieno[2,3-b]thiophene-1,1-dioxide. Thus, 2,3-dihydro-2-n-propylthieno[2,3-b]thiophene-2-carboxamide-1,1-dioxide (5.45 g, 21.0 mmol) reacted with borane-dimethyl sulfide complex (21 mL, 10M) to give, after work up, the title compound (4.0 g, 77%). 1H NMR (300 MHz,DMSO-d6) 0.95(t,3H), 1.35(m,2H), 1.80(m,1H), 2.00(m,1H), 2.80(d,1H), 2.95(d,1H), 3.10(d,1H), 3.23(d,1H), 7.05(d,1H), 8.05(d,1H).

reactant | 2-aminomethyl-2,3-dihydro-2-methylthieno[2,3-b]thiophene-1,1-dioxide | NCC1(CC2=C(SC=C2)S1(=O)=O)C | C8H11NO2S2
reactant | 2,3-dihydro-2-n-propylthieno[2,3-b]thiophene-2-carboxamide-1,1-dioxide | 21.0 mmol, 5.45 g | C(CC)C1(CC2=C(SC=C2)S1(=O)=O)C(=O)N | C10H13NO3S2
product | 2-aminomethyl-2,3-dihydro-2-n-propylthieno[2,3-b]thiophene-1,1-dioxide | 4.0 g, 77% | NCC1(CC2=C(SC=C2)S1(=O)=O)CCC | C10H15NO2S2
